US07888366B2
To a stirred solution of 4-fluoromandelic acid (1.0 g, 5.88 mmol) in tetrahydrofuran was added lithium aluminum hydride (0.47 g, 12.34 mmol). The reaction mixture was refluxed for 1.5 hours. The reaction mixture was cooled (0° C.), quenched with sat. ammonium chloride solution, filtered, concentrated to yield 0.87 g of 1-(4-fluorophenyl)ethane-1,2-diol.

reactant | 4-fluoromandelic acid | 5.88 mmol, 1.0 g | FC1=CC=C(C(C(=O)O)O)C=C1 | C8H7FO3
reactant | lithium aluminum hydride | 12.34 mmol, 0.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-fluorophenyl)ethane-1,2-diol | 0.87 g | FC1=CC=C(C=C1)C(CO)O | C8H9FO2
